US04788205
To a solution of 2-amino-4,5-dimethylthiazole (0.05 mole) in toluene (30 ml), cooled in ice was added diketene (0.05 mole) at such a rate that the temperature did not rise above 20° C. When addition was complete the mixture was stirred at room temperature for 2 hours and evaporated to dryness to give N-(4,5-dimethylthiazol-2-yl)-3-ketobutanamide (4.1 g), Rf (silica; diethylamine/ethyl acetate 1:19) 0.47; m.p. 191°-3° C.

reactant | 2-amino-4,5-dimethylthiazole | 0.05 mole | NC=1SC(=C(N1)C)C | C5H8N2S
reactant | diketene | 0.05 mole | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4,5-dimethylthiazol-2-yl)-3-ketobutanamide | 4.1 g | CC=1N=C(SC1C)NC(CC(C)=O)=O | C9H12N2O2S
